US04739123
In a four necked 100 ml flask equipped with a condenser, a dropping funnel and a thermometer, pyridine (19.3 g, 244 mmol) was charged and warmed to 70° C. Monochloromethyl 2-trifluoromethyl-3,3,3-trifluoropropanoate (4.88 g, 20 mmol) was dropwise added thereto while stirring. The reaction was continued at the same temperature as above for 2 hours while stirring. The gas evolved from a top of the condenser was washed with an alkaline solution, dried with alumina and cooled. The resultant liquid was distillated to give 2-trifluoromethyl-3,3,3-trifluoropropene (b.p., 14° C.) (2.30 g). Yield, 70 %.

reactant | pyridine | 244 mmol, 19.3 g | N1=CC=CC=C1 | C5H5N
reactant | Monochloromethyl 2-trifluoromethyl-3,3,3-trifluoropropanoate | 20 mmol, 4.88 g | FC(C(C(=O)OCCl)C(F)(F)F)(F)F | C5H3ClF6O2
product | 2-trifluoromethyl-3,3,3-trifluoropropene | 2.30 g | FC(C(=C)C(F)(F)F)(F)F | C4H2F6
